US06103762
(a) 2-bromo-1-(3-methylbut-2-enylthio)benzene
19.30 g (102.0 mmol) of 2-bromothiophenol, 160 ml of DMF and 15.50 g (112.0 mmol) of potassium carbonate are introduced into a three-necked flask. 13 ml (112.0 mmol) of 1-bromo-3-methyl-2-butene are added dropwise and the reaction mixture is stirred at room temperature for two hours. It is poured into water and extracted with ethyl acetate and the organic phase is separated by settling, washed with water, dried over magnesium sulphate and evaporated. 26.00 g (99%) of the expected compound are collected in the form of an orangey oil.

reactant | 2-bromothiophenol | 102.0 mmol, 19.30 g | BrC1=C(C=CC=C1)S | C6H5BrS
reactant | DMF | 160 ml | CN(C)C=O | C3H7NO
reactant | potassium carbonate | 112.0 mmol, 15.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-methyl-2-butene | 112.0 mmol, 13 ml | BrCC=C(C)C | C5H9Br
solvent | water | O | H2O
product | 2-bromo-1-(3-methylbut-2-enylthio)benzene | BrC1=C(C=CC=C1)SCC=C(C)C | C11H13BrS
